US06288061B1
Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate (105.2 g) and 4-nitrobenzylamine (76.4 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate (55.1 g), which was dissolved in ethyl alcohol. 1 M Sodium hydroxide solution was added and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylic acid (40.3 g), melting point 205-208° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate | 105.2 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C12H13NO5
reactant | 4-nitrobenzylamine | 76.4 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-methoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | 55.1 g | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C19H17N3O5
